// Continuous hysteresis comparator sweep
simulator lang=spectre
global 0

Vvdd (vdd 0) vsource dc=0.9 type=dc
Vgnd (gnd 0) vsource dc=0.0 type=dc

Vvinp (vinp 0) vsource type=pwl wave=[0 0.44 40n 0.46 80n 0.44]
Vvinn (vinn 0) vsource dc=0.45 type=dc

// DUT (port order: VINN VINP OUTN OUTP VSS VDD)
IDUT (vinn vinp out_n out_p gnd vdd) cmp_hysteresis vhys=10m tedge=50p

tran tran stop=80n maxstep=100p
save vinp vinn out_p out_n

ahdl_include "dut_fixed.va"
