simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vctrl (vctrl 0) vsource type=pwl wave=[0 0.1 80n 0.1 81n 0.8 180n 0.8]

XDUT (vctrl phase clk) vco_phase_integrator

tran tran stop=180n maxstep=500p
save vctrl phase clk
