// lfsr gold smoke testbench
// seed=123, 1 GHz clock, RSTB deasserts at 101ns, run 500ns.
// Check: DPN toggles ≥10 times, hi_frac in (0.05, 0.95).
simulator lang=spectre
global 0

ahdl_include "lfsr.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0

Vclk  (clk  0) vsource type=pulse val0=0 val1=0.9 period=1n width=0.5n rise=50p fall=50p
Vrstb (rstb 0) vsource type=pwl wave=[0 0  100.9n 0  101n 0.9  500n 0.9]
Ven   (en   0) vsource dc=0.9

IDUT (dpn vdd vss clk en rstb) lfsr seed=123

tran tran stop=500n maxstep=2n
save clk rstb dpn
