simulator lang=spectre
global 0

ahdl_include "programmable_stimulus_sequencer.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2n width=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 90n 0]
Vmode (mode 0) vsource type=pwl wave=[0 0 25.9n 0 26n 0.45 61.9n 0.45 62n 0.9 90n 0.9]
Vgate (gate 0) vsource type=pwl wave=[0 0 65.9n 0 66n 0.9 75.9n 0.9 76n 0 79.9n 0 80n 0.9 88n 0.9 88.1n 0 90n 0]

XDUT (clk rst mode gate out metric) programmable_stimulus_sequencer

tran tran stop=90n maxstep=0.25n
save clk rst mode gate out metric
